US04731367
800 mg of 2-bromo-1-(tert-butyldimethylsilyl)-8,9-didehydro-6,8-dimethylergoline was dissolved in 50 ml of anhydrous toluene; the solvent was distilled off under vacuum and the mixture taken up in 75 ml of anhydrous, freshly distilled toluene under an argon atmosphere. To this solution was added 1 ml of anhydrous tetramethylethylenediamine and the mixture was cooled to -90° C. Then the mixture was combined with 6.0 ml of 1.4-molar tert-butyllithium solution in hexane (8.4 mmol) and agitated for 5 hours. Water was then added, the mixture was extracted with methylene chloride, the organic phase was dried with sodium sulfate and evaporated. In a quantitative yield, 8,9-didehydro-6,8-dimethylergoline was isolated. The desired 8,9-didehydro-6,8-dimethyl-2-trimethylsilylergoline could not be detected by NMR.

reactant | 2-bromo-1-(tert-butyldimethylsilyl)-8,9-didehydro-6,8-dimethylergoline | 800 mg | BrC1=C2C[C@H]3N(CC(=C[C@@H]3C=3C=CC=C(N1[Si](C)(C)C(C)(C)C)C32)C)C | C22H31BrN2Si
reactant | tert-butyllithium | 1.4-molar, 6.0 ml | C(C)(C)(C)[Li]
reactant | hexane | 8.4 mmol | CCCCCC | C6H14
reactant | Water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 8,9-didehydro-6,8-dimethylergoline | quantitative yield | CN1CC(=C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)C | C16H18N2
